US09062092B2
Compound 107b. 2,2-Bis-fluoromethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid
A solution of lithium hydroxide monohydrate (311 mg, 7.42 mmol) in water (8 mL) was added to a stirred solution of 2,2-bis-fluoromethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester (619 mg, 2.47 mmol) in tetrahydrofuran/methanol (12 mL, 4:1). The reaction mixture was stirred at room temperature for 1 h and then cooled to 0° C. before acidifying to pH 4 with hydrochloric acid (1 M). The mixture was saturated with sodium chloride and then extracted with dichloromethane (3×10 mL). The extract was filtered through a hydrophobic frit and evaporated to give the title product (390 mg, 71%) as a colorless gum. 1H NMR (300 MHz, CDCl3) δ 4.00 (d, J=12.0 Hz, 2H), 4.35-4.73 (m, 6H), 5.30-5.43 (m, 2H), 5.68-5.81 (m, 1H).

reactant | lithium hydroxide monohydrate | 7.42 mmol, 311 mg | O.[OH-].[Li+]
reactant | 2,2-bis-fluoromethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester | 2.47 mmol, 619 mg | C(C)OC(=O)C1(COC(OC1)(CF)CF)C=C | C11H16F2O4
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 8 mL | O | H2O
solvent | tetrahydrofuran methanol | 12 mL | O1CCCC1.CO
product | 2,2-Bis-fluoromethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid | 390 mg, 71% | FCC1(OCC(CO1)(C(=O)O)C=C)CF | C9H12F2O4
